US05405990
A solution of dibenzyl N-(4-[N,N-bis-(2-chloroethyl)amino]phenylcarbamoyl)-L-glutamate (1.138 g) in DMF (15 ml) was hydrogenated over 10% Pd/C for 16 h. After filtration and evaporation in vacuo, the residue was dissolved in CHCl3 (20 ml). After 18 h the crystalline precipitate was filtered off and dried in vacuo to obtain N-(4-[N,N-bis-(2-chloroethyl)amino]phenylcarbamoyl)-L-glutamic acid. Yield, 730 mg (93%). After recrystallization from acetone/CHCl3 microscopic rods formed m.p. 116°-118°. NMR (CD3COCD3): δ 8.0(s)1H; 7.2(d)2H; 6.6(d)2H; 6.2(d)2H NH; 4.4(m)1H; 3.6(m)8H; 2.5-1.9(m)4H.

reactant | dibenzyl N-(4-[N,N-bis-(2-chloroethyl)amino]phenylcarbamoyl)-L-glutamate | 1.138 g | ClCCN(CCCl)C1=CC=C(C=C1)NC(=O)N[C@@H](CCC(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C30H33Cl2N3O5
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
catalyst | Pd/C | [Pd] | Pd
product | N-(4-[N,N-bis-(2-chloroethyl)amino]phenylcarbamoyl)-L-glutamic acid | ClCCN(CCCl)C1=CC=C(C=C1)NC(=O)N[C@@H](CCC(=O)O)C(=O)O | C16H21Cl2N3O5
